US08080552B2
370 mg (14.7 mmol) sodium hydride was given to a solution of 2.31 g (13.3 mmol) 2-chloro-4-nitrophenol in 25 ml DMF. Stirring was continued for 30 min. at room temperature. 2.50 g (13.3 mmol) 3-(4-Chloro-pyrimidin-2-ylamino)-propan-1-ol were added and the mixture heated to 140° C. for 24 h. The reaction mixture was evaporated, taken up with water and extracted with dichloromethane. The organic phase was extracted with sodium carbonate solution, dried (sodium sulphate) and evaporated. The obtained material was dissolved in 3 ml dichloromethane and purified by chromatography over silica (dichloromethane/ethanol 95:5) to give 2.92 g (67%) 3-[4-(2-chloro-4-nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol.

reactant | sodium hydride | 14.7 mmol, 370 mg | [H-].[Na+]
reactant | 2-chloro-4-nitrophenol | 13.3 mmol, 2.31 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | 3-(4-Chloro-pyrimidin-2-ylamino)-propan-1-ol | 13.3 mmol, 2.50 g | ClC1=NC(=NC=C1)NCCCO | C7H10ClN3O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 3-[4-(2-chloro-4-nitro-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 2.92 g, 67% | ClC1=C(OC2=NC(=NC=C2)NCCCO)C=CC(=C1)[N+](=O)[O-] | C13H13ClN4O4
